### PR TITLE
Arxiv/2604.08040: solvability from the cyclic subgroup count

### LINKED ISSUE #4844: Solvability of finite groups from cyclic subgroup count (cyc(G) < 2^(t+2))
### What is the conjecture

Let $G$ be a finite group, let $\mathrm{cyc}(G)$ denote the number of cyclic subgroups of $G$, and let $t = \pi(G)$ denote the number of distinct prime divisors of $|G|$. If

$$\mathrm{cyc}(G) < 2^{t+2}$$

then $G$ is solvable.

**Context:** The authors study how the number of subgroups $\mathrm{sub}(G)$ and the number of cyclic subgroups $\mathrm{cyc}(G)$ enforce structural properties of $G$ (nilpotency, supersolvability, solvability) when combined with $t = \pi(G)$. They prove:
* $\mathrm{cyc}(G) < 5 \cdot 2^{t-2} \implies G$ is nilpotent (Theorem 3.2)
* $\mathrm{cyc}(G) < 2^{t+1} \implies G$ is supersolvable (Theorem 4.2)
* $\mathrm{sub}(G) < 59 \cdot 2^{t-3} \implies G$ is solvable (Theorem 5.4, sharp via $A_5 \times \prod \mathbb{Z}_{p_i}$)

Conjecture 5.5 states that the corresponding bound for cyclic subgroups to guarantee solvability is $\mathrm{cyc}(G) < 2^{t+2}$.

* **Source Paper:** *Group Structure via Subgroup Counts* ([arXiv:2604.08040v1](https://arxiv.org/abs/2604.08040v1), [HTML](https://arxiv.org/html/2604.08040v1), [PDF](https://arxiv.org/pdf/2604.08040v1))
* **Authors:** Angsuman Das, Hiranya Kishore Dey, Khyati Sharma
* **In-Paper Location:** [Conjecture 5.5 (Page 15)](https://arxiv.org/pdf/2604.08040v1#page=15) in Section 5 "Solvability of a group from $\mathrm{sub}(G)$"
* **OpenConjecture ID:** 1512 ([OpenConjecture](https://github.com/davisrbr/conjectures-arxiv))

### Prerequisites needed

* **Solvable groups:** [`Mathlib.GroupTheory.Solvable`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Solvable.html)
* **Cyclic groups and subgroups:** [`Mathlib.GroupTheory.SpecificGroups.Cyclic`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/SpecificGroups/Cyclic.html), [`Mathlib.Algebra.Group.Subgroup.Basic`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Basic.html)
* **Prime factorization / prime divisors:** [`Mathlib.Data.Nat.Factorization.Basic`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Factorization/Basic.html)

### Formalization Sketch

```lean
import Mathlib.GroupTheory.Solvable
import Mathlib.GroupTheory.SpecificGroups.Cyclic
import Mathlib.Data.Nat.Factorization.Basic

/-- The number of cyclic subgroups of a finite group `G`. -/
noncomputable def cyc (G : Type*) [Group G] [Fintype G] : ℕ :=
  Fintype.card {H : Subgroup G // IsCyclic H}

/-- The number of distinct prime divisors of the order of `G`. -/
noncomputable def numPrimeFactors (G : Type*) [Group G] [Fintype G] : ℕ :=
  (Nat.factorization (Fintype.card G)).support.card

/--
Conjecture 5.5 in "Group Structure via Subgroup Counts" (Das, Dey, Sharma 2026):
If a finite group `G` has `cyc(G) < 2^(t+2)` where `t = π(G)` is the number of
distinct prime divisors of `|G|`, then `G` is solvable.
-/
conjecture group_solvable_of_cyc_lt (G : Type*) [Group G] [Fintype G]
    (h : cyc G < 2 ^ (numPrimeFactors G + 2)) :
    IsSolvable G
```

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

This issue was generated by an AI agent and reviewed by me.

### PR DESCRIPTION
**Pull request by williamjblair**
Closes #4844.

Conjecture 5.5 of [Das, Dey, Sharma](https://arxiv.org/abs/2604.08040): if a finite group has `cyc(G) < 2^(π(G)+2)` then it is solvable.

```lean
answer(sorry) ↔ ∀ (G : Type) [Group G] [Fintype G],
  cyc G < 2 ^ (numPrimeFactors G + 2) → IsSolvable G
```

`A₅` is what makes the exponent what it is, so it is here as an `API` pair: `π(A₅) = 3` and `cyc(A₅) = 32 = 2^(3+2)`, so it misses the hypothesis by exactly one and stays consistent despite being insoluble. Any threshold above `2^(t+2)` is refuted by it. I counted the 32 by brute force before stating it: the trivial subgroup, 15 of order 2, 10 of order 3, 6 of order 5.

Two corrections to the issue's citations, both checked against the paper's Figure 1 and the theorem bodies:

| claim | issue says | paper |
| --- | --- | --- |
| `cyc < 5·2^(t-2)` ⇒ nilpotent | Theorem 3.2 | **Theorem 3.1** |
| `sub < 59·2^(t-3)` ⇒ solvable | Theorem 5.4 | **Theorem 5.3** |

Theorem 4.2 and Conjecture 5.5 were right. The `sub(G)` result is not formalised here since it is about a different counting function.

Theorem 4.2 gives supersolvability, which Mathlib has no predicate for, so it is stated as the solvability it implies. That is weaker than the paper and the docstring says so.

`lake --wfail build` clean on the file, and `cyc_punit` is proved rather than `sorry`d.

### CODE REVIEW

File: FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+    IsSolvable G := by
+  sorry
+
+/-- The alternating group on five letters has exactly $32$ cyclic subgroups: the trivial one,
+$15$ of order $2$, $10$ of order $3$ and $6$ of order $5$. -/
+@[category API, AMS 20]
+theorem cyc_alternatingGroup_five : cyc (alternatingGroup (Fin 5)) = 32 := by
+  sorry
+
+/-- `A₅` is where the bound bites. It has $\pi = 3$ and $\mathrm{cyc} = 32 = 2^{3+2}$, so it
```
Comment (mo271) [inline FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean]:
```suggestion
/-- $A_5$ is where the bound bites. It has $\pi = 3$ and $\mathrm{cyc} = 32 = 2^{3+2}$, so it
```

File: FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+**Theorem 4.2.** Below $2^{t+1}$ cyclic subgroups the group is supersolvable.
+
+Stated here as solvability, which supersolvability implies, since Mathlib has no
+`IsSupersolvable`.
+-/
+@[category research solved, AMS 20]
+theorem solvable_of_cyc_lt_two_pow_succ (h : cyc G < 2 ^ (numPrimeFactors G + 1)) :
+    IsSolvable G := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean:70]:
```suggestion

/-- The alternating group on five letters has order $60 = 2^2 \cdot 3 \cdot 5$. -/
@[category test, AMS 20]
theorem card_alternatingGroup_fin_five :
    Fintype.card (alternatingGroup (Fin 5)) = 60 := by
  rw [← Nat.card_eq_fintype_card, ← Nat.mul_left_cancel_iff (by norm_num : 0 < 2),
      two_mul_nat_card_alternatingGroup, Nat.card_perm]
  norm_num [Fintype.card_fin]

```

With this one can prove `not_cyc_alternatingGroup_five_lt` below

File: FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+theorem cyc_alternatingGroup_five : cyc (alternatingGroup (Fin 5)) = 32 := by
+  sorry
+
+/-- `A₅` is where the bound bites. It has $\pi = 3$ and $\mathrm{cyc} = 32 = 2^{3+2}$, so it
+misses the hypothesis by one and stays consistent with the conjecture despite being insoluble.
+Any threshold above $2^{t+2}$ would be refuted by it. -/
+@[category API, AMS 20]
+theorem not_cyc_alternatingGroup_five_lt :
+    ¬ cyc (alternatingGroup (Fin 5)) < 2 ^ (numPrimeFactors (alternatingGroup (Fin 5)) + 2) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean]:
```suggestion
  rw [cyc_alternatingGroup_five]
  unfold numPrimeFactors
  rw [card_alternatingGroup_fin_five, show Nat.primeFactors 60 = {2, 3, 5} from by native_decide]
  norm_num
```

File: FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+/-- The alternating group on five letters has exactly $32$ cyclic subgroups: the trivial one,
+$15$ of order $2$, $10$ of order $3$ and $6$ of order $5$. -/
+@[category API, AMS 20]
+theorem cyc_alternatingGroup_five : cyc (alternatingGroup (Fin 5)) = 32 := by
+  sorry
+
+/-- `A₅` is where the bound bites. It has $\pi = 3$ and $\mathrm{cyc} = 32 = 2^{3+2}$, so it
+misses the hypothesis by one and stays consistent with the conjecture despite being insoluble.
+Any threshold above $2^{t+2}$ would be refuted by it. -/
+@[category API, AMS 20]
```
Comment (mo271) [inline FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean]:
```suggestion
@[category test, AMS 20]
```

File: FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean [hunk 5]
```diff
@@ -0,0 +1,92 @@
...
+`IsSupersolvable`.
+-/
+@[category research solved, AMS 20]
+theorem solvable_of_cyc_lt_two_pow_succ (h : cyc G < 2 ^ (numPrimeFactors G + 1)) :
+    IsSolvable G := by
+  sorry
+
+/-- The alternating group on five letters has exactly $32$ cyclic subgroups: the trivial one,
+$15$ of order $2$, $10$ of order $3$ and $6$ of order $5$. -/
+@[category API, AMS 20]
```
Comment (mo271) [inline FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean]:
```suggestion
@[category test, AMS 20]
```

File: FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean [hunk 6]
```diff
@@ -0,0 +1,92 @@
...
+theorem cyc_alternatingGroup_five : cyc (alternatingGroup (Fin 5)) = 32 := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean:83]: I suppose this is a bit more tricky to prove, since definitions are noncomputable?

**Review by mo271 — COMMENTED** [review]
Thanks for the contribution, looks great!

Just some comments about potentially sprinkle in more proofs...

**Comment by williamjblair** [comment]
Thanks, all applied now. Note`card_alternatingGroup_fin_five` is in and `not_cyc_alternatingGroup_five_lt` now follows from it. `decide +kernel` handles `Nat.primeFactors 60 = {2, 3, 5}` and keeps the axiom set to the usual three, so I used that instead of `native_decide`.

`cyc_alternatingGroup_five` is a hard one. `cyc` is a `Nat.card` over a subtype of `Subgroup`, which has nothing to evaluate, so it needs the subgroups actually enumerated. I left `sorry`'d (see comment above for more info)

File: FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean (hunk 6 above)
Comment (williamjblair) [reply FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean:83]: Yep, `cyc` is `Nat.card` over a subtype of `Subgroup G`, so there is nothing for `decide` to run on. The`Fintype` instance would come from classical choice, which does not compute either.

Getting 32 means exhibiting the subgroups and showing they are all of them (meaning the trivial one, 15 of order 2, 10 of order 3 and 6 of order 5). I could work on it here, but it could warrant its own follow-up PR?

Comment (mo271) [reply FormalConjectures/Arxiv/2604.08040/SubgroupCounts.lean:83]: sounds good. Either don't or let's do it in a follow up

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
